US05270309
To acetic anhydride (160 ml) at room temperature was added 4-ethylaniline (30 g) over 15 minutes with stirring. The mixture was cooled to 10° C. and concentrated nitric acid (45 ml) was added very slowly, keeping the reaction temperature to below 14° C. The mixture was warmed to room temperature over one hour, poured into ice-water and the resultant yellow solid was filtered off and dried. This was added to dioxan (100 ml), followed by 6M hydrochloric acid (100ml), the solution heated to 70° C. for 3 hr, poured into water, and 1M sodium hydroxide added until pH 10. The product was extracted into ethyl acetate which was then washed with water, brine, dried over magnesium sulphate and solvent removed under vacuum to give 4-ethyl-2-nitroaniline (28.4 g). δ (60 MHz CDCl3) 1.2 (3H, t, CH3), 2.5 (2H, q, CH2). 6.3 (2H. bs, NH2 ) and 6.6 to 7.8 (3H, m, ArH).

reactant | 4-ethylaniline | 30 g | C(C)C1=CC=C(N)C=C1 | C8H11N
reactant | nitric acid | 45 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | 160 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-ethyl-2-nitroaniline | 28.4 g | C(C)C1=CC(=C(N)C=C1)[N+](=O)[O-] | C8H10N2O2
